US04483857
1-Formylpiperazine (38.5 g) and triethylamine (34 g) in ethanol (500 ml) were added slowly to a stirred solution of 2,4-dichloropyrimidine (50 g) in ethanol (2.5 ml) at room temperature. The mixture was stirred at room temperature for 24 hours then evaporated in vacuo and the residue partitioned between chloroform and water. The organic phase was washed with water and the combined aqueous phases extracted with chloroform. The combined chloroform extracts were dried (Na2SO4), evaporated in vacuo and the residue was crystallized twice from ethyl acetate to give 2-chloro-4-(4-formylpiperazino)pyrimidine, (24 g), m.p. 125°-126° C.

reactant | 1-Formylpiperazine | 38.5 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | triethylamine | 34 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine | 50 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 2-chloro-4-(4-formylpiperazino)pyrimidine | 24 g | ClC1=NC=CC(=N1)N1CCN(CC1)C=O | C9H11ClN4O
